US05424472
A solution of 55.1 g thiophenol and 20.4 g NaOH in 80 mL water was added under ice cooling to a solution of 77 g methacrylic acid anhydride (stabilized with 1,000 ppm 4-methyl-2,6-di-t-butylphenol) in 400 ml MTBE. Following completion of the dropwise addition, the mixture was stirred 3 hr at 40° C. The organic phase was separated out and washed with water. After drying, the raw ester solution was distilled (b.p. 70°-72° C. at 0.5 mbar). Methacryloylthiobenzene was obtained, with purity>98% according to GC, in yield 80% of theoretical.

reactant | thiophenol | 55.1 g | C1(=CC=CC=C1)S | C6H6S
reactant | NaOH | 20.4 g | [OH-].[Na+]
reactant | methacrylic acid anhydride | 77 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
solvent | water | 80 mL | O | H2O
solvent | MTBE | 400 ml | CC(C)(C)OC | C5H12O
product | Methacryloylthiobenzene | yield 80% | C(C(=C)C)(=O)SC1=CC=CC=C1 | C10H10OS
